US06884801B1
Isatoic anhydride (5.0 g, 30.6 mmol), 35 mL of absolute ethanol and anhydrous 1,1-dimethylhydrazine (2.56 mL, 33.6 mmol) were refluxed for 2 hours. The volatiles were removed in vacuo. The residue was purified by silica gel flash chromatography using 5-10% methanol in dichloromethane. Concentration in vacuo produced 1.60 g of 2-aminobenzoic acid N′,N′-dimethylhydrazide.

reactant | Isatoic anhydride | 30.6 mmol, 5.0 g | C1=2C(=O)OC(NC1=CC=CC2)=O | C8H5NO3
reactant | 1,1-dimethylhydrazine | 33.6 mmol, 2.56 mL | CN(N)C | C2H8N2
solvent | ethanol | 35 mL | C(C)O | C2H6O
product | 2-aminobenzoic acid N′,N′-dimethylhydrazide | 1.60 g | CN(NC(C1=C(C=CC=C1)N)=O)C | C9H13N3O
